US08580812B2
Step 3. 4-(2-Adamantan-1-ylacetylamino)pyrazolo[1,5-a]pyridine-2-carboxylic acid ethyl ester
A 1.0 M solution of triethylamine in toluene (0.3 mL) is added to a solution of 1-adamantaneacetic acid (14 mg, 80 μmol) and 4-aminopyrazolo[1,5-a]pyridine-2-carboxylic acid ethyl ester (12 mg, 60 μmol) in DMF (0.3 mL) under N2. A solution of 2-chloro-1,3-dimethylimidazolinium chloride (20 mg, 120 μmol) in ACN (0.3 mL) is added. The reaction vessel is sealed and the mixture is warmed to 50° C. for 2 h. The mixture is cooled to rt. 50% Sat. aq. NaHCO3 (2 mL) is added. The solution is extracted with Et OAc (2×1 mL). The combined organics are concentrated. Purification by preparative thin layer chromatography (2:1 hexanes:EtOAc) affords the title compound as a light tan solid. 1H NMR (400 MHz, CDCl3) δ: 8.32 (d, 1H), 8.05 (d, 1H), 7.15 (s, 1H), 7.05 (s, 1H), 6.91 (t, 1H), 4.59 (q, 2H), 2.21 (s, 2H), 1.98-2.06 (m, 3H), 1.56-1.78 (m, 12H), 1.46 (t, 3H). LC-MS m/z (M+H+): 382.10.

reactant | 1-adamantaneacetic acid | 80 μmol, 14 mg | C12(CC3CC(CC(C1)C3)C2)CC(=O)O | C12H18O2
reactant | 4-aminopyrazolo[1,5-a]pyridine-2-carboxylic acid ethyl ester | 60 μmol, 12 mg | C(C)OC(=O)C1=NN2C(C(=CC=C2)N)=C1 | C10H11N3O2
reactant | 2-chloro-1,3-dimethylimidazolinium chloride | 120 μmol, 20 mg | [Cl-].ClC1[NH+](CCN1C)C
reactant | NaHCO3 | 2 mL | C(=O)(O)[O-].[Na+]
solvent | toluene | 0.3 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMF | 0.3 mL | CN(C)C=O | C3H7NO
solvent | ACN | 0.3 mL | C(C)#N | C2H3N
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-(2-Adamantan-1-ylacetylamino)pyrazolo[1,5-a]pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NN2C(C(=CC=C2)NC(CC23CC4CC(CC(C2)C4)C3)=O)=C1 | C22H27N3O3
